US04755513
6,8-Difluoro-7-(4-methyl-1-piperazinyl)-1-(4-hydroxyphenyl)-1,4-dihydro-4-oxoquinoline-3-carboxylic acid (0.14 g) is dissolved in dry pyridine (5 ml) and acetic anhydride (5 ml), and the mixture is allowed to stand at room temperature for 16 hours. Excess acetic anhydride and pyridine are distilled off under reduced pressure, and the resulting residue is dissolved in dichloromethane. The dichloromethane solution is washed with diluted hydrochloric acid, saturated aqueous sodium chloride, saturated aqueous sodium hydrogen carbonate and saturated aqueous sodium chloride in this order, and dried over sodium sulfate. The solvent is distilled off, and the residue is recrystallized from ethanol-chloroform to give 6,8-difluoro-7-(4-methyl-1-piperazinyl)-1-(4-acetyloxyphenyl)-1,4-dihydro-4-oxoquinoline-3-carboxylic acid (0.12 g) as pale yellowish white crystals, m.p. 247°-251° C.

reactant | 6,8-Difluoro-7-(4-methyl-1-piperazinyl)-1-(4-hydroxyphenyl)-1,4-dihydro-4-oxoquinoline-3-carboxylic acid | 0.14 g | FC=1C=C2C(C(=CN(C2=C(C1N1CCN(CC1)C)F)C1=CC=C(C=C1)O)C(=O)O)=O | C21H19F2N3O4
reactant | acetic anhydride | 5 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | pyridine | 5 ml | N1=CC=CC=C1 | C5H5N
product | 6,8-difluoro-7-(4-methyl-1-piperazinyl)-1-(4-acetyloxyphenyl)-1,4-dihydro-4-oxoquinoline-3-carboxylic acid | 0.12 g | FC=1C=C2C(C(=CN(C2=C(C1N1CCN(CC1)C)F)C1=CC=C(C=C1)OC(C)=O)C(=O)O)=O | C23H21F2N3O5
